US07064226B2
A mixture of 1-phenyl-1-propanol (0.16 g, 1.17 mmol) and Catalyst A or B (30 mg) in toluene (1 ml) was stirred and heated at 75° C. for 10 h under nitrogen. Ether (20 ml) was added and the mixture was filtered to remove the catalyst. The organic washings were concentrated under reduced pressure at room temperature to afford β-methyl styrene as a colourless oil (0.13 g, 92%).

reactant | 1-phenyl-1-propanol | 1.17 mmol, 0.16 g | C1(=CC=CC=C1)C(CC)O | C9H12O
reactant | Ether | 20 ml | CCOCC | C4H10O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | β-methyl styrene | 0.13 g, 92% | CC=CC1=CC=CC=C1 | C9H10
